US06391887B1
7-Methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
Analogously to Example 4, 7-methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (200 mg, 1.0 mmol) is reacted with Lawesson's reagent (425 mg, 1.1 mmol) to form 230 mg of product.

reactant | 7-methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.0 mmol, 200 mg | CC=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C13H15NO
reactant | Lawesson's reagent | 1.1 mmol, 425 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 7-Methyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 230 mg | CC=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C13H15NS
